US05496787
60 ml of n-propanol and 60 ml of toluene were added to 18.2 g of vanadium pentoxide. The mixture was heated to 90° C., and formed water was azeotropically removed to obtain vanadium propoxide. Here, about 60% of vanadium pentoxide was converted to vanadium propoxide. To such the reaction solution, 70 ml of isobutanol was added, and 7.2 ml of water was further added for hydrolysis, whereby a gel-like precipitate formed. Then, 200 ml of butanol and 32.8 g of 100% phosphoric acid were added thereto. The temperature was raised with stirring, and refluxing was continued to obtain a blue solid. After conducting the refluxing for 10 hours, the mixture was cooled and subjected to filtration to obtain a catalyst precursor C. The catalyst precursor C had a size and shape as shown in FIG. 8.

reactant | n-propanol | 60 ml | C(CC)O | C3H8O
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | vanadium pentoxide | 18.2 g | [O-2].[O-2].[O-2].[O-2].[O-2].[V+5].[V+5]
solvent | water | O | H2O
product | vanadium propoxide | [O-]CCC.[V+5].[O-]CCC.[O-]CCC.[O-]CCC.[O-]CCC | InChI=1S/5C3H7O.V/c5*1-2-3-4;/h5*2-3H2,1H3;/q5*-1;+5
